US05986151
To a slurry of 9.4 g AlCl3 in 90 mL benzene cooled in an ice bath, was added (over 18 minutes) a solution of 14.2 g of CF3CH2CH2F in 10 mL benzene. The mixture was stirred for an additional 0.5 hour at ice-bath temperature and 1 hour at room temperature. It was then poured into 50 g ice and 25 mL concentrated HCl, and the resulting solution stirred until the color disappeared. The benzene layer was separated, washed with 25 mL saturated NaCl and dried (Na2SO4). Distillation provided 1,1,1-trifluoro-3-phenylpropane (CH3CH2CH2Ph), bp 77-79° C. at 32 mm Hg. 1H NMR: 7.1(5H), 2.8(m) ppm. 19F NMR: -67.2 (t, J=9.7 Hz) ppm. This example shows the utility of CF3CH2CH2F. It illustrates that it can be used in a Friedel-Crafts reaction to make the same product as would be obtained if CF3CH=CH2 had been used.

reactant | AlCl3 | 9.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | CF3CH2CH2F | 14.2 g | C(F)(F)(F)CCF | C3H4F4
reactant | HCl | 25 mL | Cl | ClH
reactant | benzene | 90 mL | C1=CC=CC=C1 | C6H6
reactant | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 1,1,1-trifluoro-3-phenylpropane | FC(CCC1=CC=CC=C1)(F)F | C9H9F3
